US09085582B2
Ethyl [(4S)-6-(4-chlorophenyl)-8-hydroxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetate (508 mg, for a preparation see intermediate 8) was dissolved in DCM (30 ml). Pyridine (500 μl) was added and the reaction mixture was stirred and cooled an ice bath. Triflic anhydride (251 μl) was added slowly. After addition the mixture was stirred in the ice bath for 2.5 h. The solvent was evaporated and the residue was chromatographed (0-5% methanol:DCM) to give ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate (295 mg) as an orange oil and further impure ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate. The impure material was chromatographed (0-5% methanol:DCM) to give the pure ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate (88 mg) as a white solid.

reactant | Ethyl [(4S)-6-(4-chlorophenyl)-8-hydroxy-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]acetate | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)O)C(=NN2)C)CC(=O)OCC | C21H19ClN4O3
reactant | Pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 251 μl | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | ethyl ((4S)-6-(4-chlorophenyl)-1-methyl-8-{[(trifluoromethyl)sulfonyl]oxy}-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl)acetate | 295 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)OS(=O)(=O)C(F)(F)F)C(=NN2)C)CC(=O)OCC | C22H18ClF3N4O5S
